Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ - I& D Thumb right at bedside 
___ - I& D THUMB RIGHT in OR 
attach
 
Pertinent Results:
ADMISSION
___ 06:15AM BLOOD WBC-10.6* RBC-3.91 Hgb-11.2 Hct-34.5 
MCV-88 MCH-28.6 MCHC-32.5 RDW-14.7 RDWSD-47.7* Plt ___
___ 06:15AM BLOOD Glucose-87 UreaN-7 Creat-0.4 Na-143 
K-3.0* Cl-101 HCO3-26 AnGap-16
___ 08:44AM BLOOD ALT-14 AST-25 AlkPhos-90 TotBili-0.5

CT UPPER EXTREMITY MTS 
Small abscesses circumferentially surrounding the right proximal 
phalanx with extension to the first IP joint concerning for 
septic joint.  No evidence of bone erosion or osteomyelitis. If 
clinical indicated, further evaluation with MRI with contrast 
can be obtained for further assessment for osteomyelitis.   
RECOMMENDATION(S):  If clinical indicated, further evaluation 
with MRI with contrast can be obtained for further assessment 
for osteomyelitis. 

WORKUP 
___ 06:15AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG 
IgM HBc-NEG IgM HAV-NEG

DISCHARGE
___ 05:00AM BLOOD WBC-7.7 RBC-3.82* Hgb-10.8* Hct-34.4 
MCV-90 MCH-28.3 MCHC-31.4* RDW-14.5 RDWSD-47.5* Plt ___
___ 04:55AM BLOOD Glucose-85 UreaN-13 Creat-0.5 Na-144 
K-4.8 Cl-107 HCO___ AnGap-13
 
Brief Hospital Course:
This is a ___ year old female with history of alcohol abuse, 
recent trauma to right thumb with subsequent progressive thumb 
pain, also recent report of syncopal episode in setting of 
alcohol use, admitted ___ with R right thumb abscess and 
septic joint requiring bedside and OR drainages

# R thumb Septic joint 
# R thumb abscess
# R hand soft tissue infection 
Patient presented with worsening R hand pain and swelling in 
setting of recent trauma (reported shutting finger in car door). 
 Reported intranasal cocaine use, but denied recent injection 
drug use.  Initially underwent bedside drainage prior to 
admission to medicine.  Patient started on vancomycin + 
cefepime.  Hospital course complicated by worsening pain and 
swelling, prompting OR drainage and washout that showed 
persistent purulence and communication of infection to joint 
space.  Wound cultures subsequently grew Strep Group C and MRSA. 
 Patient seen by ID and therapy was narrowed to vancomycin.   
Pain initially controlled with oxycodone, which was weaned and 
discontinued prior to discharge--discharged with prescriptions 
for NSAID and Tylenol.  Discharged with instructions for TID 
soaks with hibiclens, dressing with adaptic and gauze.  Has 
follow-up scheduled with Dr. ___ hand surgery in ___ weeks.  
On day of discharge, her vanco trough was 12.1--per discussion 
with ID, she was recommended for repeat trough on ___, to be 
faxed to OPAT, with plan for subsequent decision re: dose 
adjustment at that time. Plan for antibiotics to continue until 
OPAT visit, at which point, decision will be made about timing 
of transition to oral agent to complete remainder of extended 
course for septic joint.  

# Syncope
Patient presented reported recent syncopal episode.  Following 
admission she the event as in the setting of intoxication and 
immediately following standing up after micturition.  Telemetry 
without concerning events.  Orthostatics (performed after IV 
fluid resuscitation) were negative.  Thought to have had 
orthostasis in setting of micturition and intoxication.  Patient 
ambulated without issue during remainder of hospital stay. 

# Alcohol abuse
Reported significant recent drinking.  Declined counseling 
during this admission.  Received IV thiamine on admission.  Was 
monitored on CIWA without signs of withdrawal.  Continued on 
thiamine + folate at discharge 

# Cocaine abuse 
# Tobacco dependence 
Admission screen positive for cocaine metabolites and 
opiates---for the latter she had already received IV opiate pain 
control in ED, and the patient denied using, so it was felt to 
not be representative of outpatient opiate use.  Patient 
admitted to  intranasal cocaine use, but declined counseling.  
Counseled re: tobacco cessation. 

Transitional issues: 
- Provided with wound care supplies and instructions
- Discharged on IV vancomycin, to continue until otherwise 
instructed by ___ clinic (appointment pending at time of 
discharge), with plan to eventually change to oral antibiotic to 
complete total course of septic joint
- ALL LAB RESULTS SHOULD BE SENT TO: ATTN: ___ CLINIC - 
FAX: ___
VANCOMYCIN: 
WEEKLY: CBC with differential, BUN, Cr, Vancomycin trough, CRP
PLEASE CHECK FIRST TROUGH ON ___

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*40 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*40 Tablet Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*14 Tablet Refills:*0 
5.  Vancomycin 1500 mg IV Q 12H Duration: 18 Days 
RX *vancomycin 1.5 gram 1500 mg IV every twelve (12) hours Disp 
#*36 Vial Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# R hand septic joint 
# R thumb abscess
# Soft tissue infection R hand
# Alcohol abuse
# Cocaine abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with a hand infection that had spread to a joint.  You were seen 
by hand surgeons and underwent surgery.  You were seen by 
infection specialists and treated with antibiotics.  You 
improved and are now ready for discharge home on IV antibiotics.

It will be important for you to continue to take care of your 
wound. 

It will be important for you to follow-up with your primary care 
doctor, and the infection doctors ___ will contact you with an 
appointment). 

 
Followup Instructions:
___